US07470678B2
tert-Butyl N-((2R)-2-{[(benzyloxy)carbonyl]amino}-2-phenylethanoyl)-O-(tert-butyl)-L-serinate
(2R)-{[(Benzyloxy)carbonyl]amino}(phenyl)acetic acid (Z-(R)-Phg-OH) (2.0 g, 7.0 mmol) and tert-butyl O-(tert-butyl)-L-serinate (2.0 g, 7.9 mmol) and 2.6-lutidine were dissolved in DCM (30 ml). After stirring 5 minutes at 0° C. TBTU (2.5 g, 7.8 mmol) was added and stirring was continued 30 minutes at 0° C. and 4 hours at room temperature. The reaction mixture was washed with water (2×100 ml), dried and purified with flash chromatography (DCM) to give the title compound (3.3 g, 97%). NMR (300 MHz, CD3OD): 1.05 (s, 9H), 1.45 (s, 9H), 3.4-3.8 (m, 2H), 4.5 (bs, 1H), 4.85 (s, 2H), 5.1 (s, 2H), 5.4 (s, 1H), 7.25-7.5 (m, 10 H).

reactant | (2R)-{[(Benzyloxy)carbonyl]amino}(phenyl)acetic acid | 7.0 mmol, 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C16H15NO4
reactant | tert-butyl O-(tert-butyl)-L-serinate | 7.9 mmol, 2.0 g | C(C)(C)(C)OC[C@H](N)C(=O)OC(C)(C)C | C11H23NO3
reactant | 2.6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | TBTU | 7.8 mmol, 2.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl N-((2R)-2-{[(benzyloxy)carbonyl]amino}-2-phenylethanoyl)-O-(tert-butyl)-L-serinate | 3.3 g, 97% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C27H36N2O6
